US06040309
Ethyl 3-chloro-6-(1H-1-imidazolylmethyl)benzo[b]thiophene2-carboxylate
Imidazole (2.0 g, 30 mmol) was added in portions to a stirred suspension of sodium hydride (0.48 g of 60% dispersion in mineral oil, 12 mmol) in anhydrous dimethylformamide (15 ml) at 0° C., under a nitrogen atmosphere. After 40 minutes, ethyl 6-bromomethyl-3-chlorobenzo[b]thiophene-2-carboxylate (Preparation 10, 3.33 g, 10 mmol) was added. After 2 hours the mixture was partitioned between ethyl acetate and water. The organic layer was separated and washed with more water, dried (magnesium sulfate), and evaporated under reduced pressure. The residue was flash chromatographed on silica gel using 5% methanol in dichloromethane as eluant, and the isolated product was crystallised from diethyl ether to give the title compound as a colourless solid (2.02 g).

reactant | Imidazole | 30 mmol, 2.0 g | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 12 mmol, 0.48 g | [H-].[Na+]
reactant | ethyl 6-bromomethyl-3-chlorobenzo[b]thiophene-2-carboxylate | 10 mmol, 3.33 g | BrCC=1C=CC2=C(SC(=C2Cl)C(=O)OCC)C1 | C12H10BrClO2S
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | Ethyl 3-chloro-6-(1H-1-imidazolylmethyl)benzo[b]thiophene2-carboxylate | 2.02 g | ClC=1C2=C(SC1C(=O)OCC)C=C(C=C2)CN2C=NC=C2 | C15H13ClN2O2S
